US06110962
Phosphoric acid Mono-[2,6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenyl ]ester
HCl (4 N in dioxane, 1.5 mL, 6 mmol) was added to a room temp[erature, stirred solution of phosphoric acid di-tert-butyl ester 2,6-dibromo-4-(6-bromo-benzo [b]naphtho[2,3-d]thiophen-11-yl)-phenyl ester (0.290 g, 0.384 mmol) in dioxane (6 mL). After 4.5 h, the solvent was removed and the solid was triturated with ether, petroleum ether and dried in vacuo to provide the title compound as a white solid (0.220, 86%): NMR (DMSO-d6); δ8.29 (d, J=8 Hz, 1 H), 8.08 (d, J=8 Hz, 1 H), 7.83 (s, 2 H), 7.80 (ddd, J=8, 7, 1 Hz, 1 H), 7.64 (ddd, J=8, 7, 1 Hz, 1 H), 7.56-7.51 (m, 2 H), 7.26 (ddd, J=8, 7, 1 Hz, 1 H), 6.71 (d, J=8 Hz, 1 H); MS (+FAB): [M+], 3 bromine isotope pattern, 640, 642, 644, 646; Anal. Calc. for C22H12Br3O4PS: C, 41.09, H, 1.88, N, 0.00. Found: C, 41.71, H, 2.22, N, 0.07.

reactant | HCl | 6 mmol, 4 N, 1.5 mL | Cl | ClH
reactant | phosphoric acid di-tert-butyl ester 2,6-dibromo-4-(6-bromo-benzo [b]naphtho[2,3-d]thiophen-11-yl)-phenyl ester | 0.384 mmol, 0.290 g | BrC1=C(C(=CC(=C1)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)Br)Br)OP(OC(C)(C)C)(OC(C)(C)C)=O | C30H28Br3O4PS
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | Phosphoric acid Mono-[2,6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenyl ]ester | 86% | BrC1=C(C(=CC(=C1)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)Br)Br)OP(O)(O)=O | C22H12Br3O4PS
